US04710573
1-Hydroxymethyl-3-(1-methyl-4-piperidinyl)-1H-indazole
A solution of 0.52 g of paraformaldehyde, 3.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole, 15 ml of ethanol and 0.34 ml of 5% aqueous sodium hydroxide was refluxed for 3 hrs. The ethanol was removed in vacuo and the residue diluted with water. The aqueous suspension was extracted with dichloromethane (2x, 50 ml) and the combined extracts were washed with water and dried over anhydrous magnesium sulfate. The dichloromethane was evaporated in vacuo to yield an oil, which crystallized upon standing. The solid was recrystallized twice from ethyl acetate to yield 1.3 g (57.8%) of product, mp 128°-130° C.

reactant | paraformaldehyde | 0.52 g | C=O | CH2O
reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 3.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | sodium hydroxide | 0.34 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-Hydroxymethyl-3-(1-methyl-4-piperidinyl)-1H-indazole | 1.3 g, 57.8% | OCN1N=C(C2=CC=CC=C12)C1CCN(CC1)C | C14H19N3O
